US06762321B2
Two grams (2.00 g) of N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide (4.79 mmol), 1.21 g (7.19 mmol) of 48% hydrobromic acid and 20 ml of acetic acid were mixed and stirred at 80° C. for 1.5 hours. The solvent was distilled off from the reaction mixture under reduced pressure and the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=2:1) to give 630 mg of 3-hydroxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(4-methylphenyl)acrylamide.

reactant | N-[2-(4-benzyloxy-3-methoxyphenyl)ethyl]-3-hydroxy-2-(4-methylphenyl)acrylamide | 4.79 mmol, Two grams | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)CCNC(C(=CO)C1=CC=C(C=C1)C)=O)OC | C26H27NO4
reactant | hydrobromic acid | 7.19 mmol, 1.21 g | Br | BrH
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | 3-hydroxy-N-[2-(4-hydroxy-3-methoxyphenyl)ethyl]-2-(4-methylphenyl)acrylamide | 630 mg | OC=C(C(=O)NCCC1=CC(=C(C=C1)O)OC)C1=CC=C(C=C1)C | C19H21NO4
